US06716859B2
Alternatively, as shown in scheme 2, reaction of 2-phenoxy-nicotinic acid hydrazide with 3-trifluoromethyl-benzoyl chloride in the presence of a base such as pyridine produced N′-(2-phenoxypyridine-3-carbonyl)-3-(trifluoromethyl)benzhydrazide as the product.

reactant | 2-phenoxy-nicotinic acid hydrazide | O(C1=CC=CC=C1)C1=C(C(=O)NN)C=CC=N1 | C12H11N3O2
reactant | 3-trifluoromethyl-benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N′-(2-phenoxypyridine-3-carbonyl)-3-(trifluoromethyl)benzhydrazide | O(C1=CC=CC=C1)C1=NC=CC=C1C(=O)NNC(C1=CC(=CC=C1)C(F)(F)F)=O | C20H14F3N3O3
